US05616537
Preparation of Allyl 3-Amino-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate (Compound No. 722)
3.4 g of allyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methyl-3-nitroindol-4-carboxylate was dissolved in 50 ml of methanol, and 5 ml of concentrated hydrochloric acid was added thereto. Then, 4.9 g of tin powder was gradually added at room temperature. Them, the mixture was stirred at room temperature for 12 hours. The solid was filtered off, and then residue was concentrated under reduced pressure and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous sodium sulfate. The residue obtained by concentration under reduced pressure, was crystallized from isopropyl ether to obtain 2.5 g (yield: 79%) of the desired product. mp: 132°-135° C.

reactant | allyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methyl-3-nitroindol-4-carboxylate | 3.4 g | COC1=NC(=NC(=C1)OC)OC1=C(C=2C(=C(NC2C=C1)C)[N+](=O)[O-])C(=O)OCC=C | C19H18N4O7
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | tin | 4.9 g | [Sn] | Sn
solvent | methanol | 50 ml | CO | CH4O
product | Allyl 3-Amino-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate | 2.5 g, yield: 79% | NC1=C(NC=2C=CC(=C(C12)C(=O)OCC=C)OC1=NC(=CC(=N1)OC)OC)C | C19H20N4O5
